US08809371B2
Thionyl chloride (6 ml) and DMF (0.1 ml) were added to 2-hydroxy-5-nitro-3-(1H-pyrazol-1-yl)pyridine (1.37 g), followed by stirring at 80° C. for 2.5 hours. The reaction solution was adjusted to room temperature and slowly added to ice water, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Then, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=5:1 to 3:1), and a yellow solid of 2-chloro-5-nitro-3-(1H-pyrazol-1-yl)pyridine (0.12 g) was thus obtained.

reactant | Thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxy-5-nitro-3-(1H-pyrazol-1-yl)pyridine | 1.37 g | OC1=NC=C(C=C1N1N=CC=C1)[N+](=O)[O-] | C8H6N4O3
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 2-chloro-5-nitro-3-(1H-pyrazol-1-yl)pyridine | 0.12 g | ClC1=NC=C(C=C1N1N=CC=C1)[N+](=O)[O-] | C8H5ClN4O2
